US06313126B1
1-Benzyl-4-(5-fluoro-2,3-dihydro-benzofuran-7-yl)-piperazine
A solution of 5-fluoro-7-amino-2,3-dihydrobenzofuran (1.38 g, 9 mmol) and bis(2-chloroethyl)-benzylamine (3.14 g, 14 mmol) in butanol (20 ml) was stirred at 100° C. for 10 hours. The salt was filtered off, washed with ethyl ether (30 ml) and dried under vacuum: mp 232-233.5° C. The salt was converted to the free base to afford 2.06 g (73%) of the title compound.

reactant | 5-fluoro-7-amino-2,3-dihydrobenzofuran | 9 mmol, 1.38 g | FC=1C=C(C2=C(CCO2)C1)N | C8H8FNO
reactant | bis(2-chloroethyl)-benzylamine | 14 mmol, 3.14 g | ClCCN(CC1=CC=CC=C1)CCCl | C11H15Cl2N
solvent | butanol | 20 ml | C(CCC)O | C4H10O
product | 1-Benzyl-4-(5-fluoro-2,3-dihydro-benzofuran-7-yl)-piperazine | 2.06 g, 73% | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC(=CC=2CCOC21)F | C19H21FN2O
